US06379590B1
Preparation of 2-(2-methoxy-7-nitro-9-fluorenyl)-1,3-dioxolane
For a period of two hours, 8 parts of sodium methoxide was added to a solution of 10 parts of 2-(2,7-dinitro-9-fluorenyl)-1,3-dioxolane in 300 parts of dimethylformamide contained within a 5 liter flask at room temperature. The mixture was magnetically stirred for 20 hours. All of the mixture was then diluted with 1800 parts of water. A yellow solid was precipitated therefrom, collected on a filter, washed with water and dried under vacuum. The dried filtered product was further purified in a chromatography column packed with silica gel (Merck Grade 60) and developed by methylene chloride to provide 8.2 parts of product (86% yield).

reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-(2,7-dinitro-9-fluorenyl)-1,3-dioxolane | [N+](=O)([O-])C1=CC=2C(C3=CC(=CC=C3C2C=C1)[N+](=O)[O-])C1OCCO1 | C16H12N2O6
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(2-methoxy-7-nitro-9-fluorenyl)-1,3-dioxolane | 86% yield | COC1=CC=2C(C3=CC(=CC=C3C2C=C1)[N+](=O)[O-])C1OCCO1 | C17H15NO5
